Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION
___ 12:00AM BLOOD WBC-22.4* RBC-4.60 Hgb-13.0* Hct-39.7* 
MCV-86 MCH-28.3 MCHC-32.7 RDW-12.7 RDWSD-39.7 Plt ___
___ 12:00AM BLOOD Glucose-178* UreaN-16 Creat-1.4* Na-138 
K-4.1 Cl-98 HCO3-14* AnGap-26*
___ 12:00AM BLOOD ALT-19 AST-65* AlkPhos-70 TotBili-0.6
___ 08:50AM BLOOD ___
___ 12:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

CT HEAD W/O CONTRAST 
1. No evidence for acute intracranial abnormalities. 
2. Approximately 1.5 cm mucous retention cyst in the right
sphenoid sinus and a tiny mucous retention cyst in the left
frontal sinus. 

MR HEAD W & W/O CONTRAS
1. No acute intracranial abnormality or gross structural 
abnormality. 
2. Pneumatization of the clivus filled with inspissated 
secretions.  There is no aggressive osseous lesions. 

DISCHARGE
___ 04:50AM BLOOD WBC-7.2 RBC-4.30* Hgb-12.0* Hct-37.9* 
MCV-88 MCH-27.9 MCHC-31.7* RDW-12.5 RDWSD-40.2 Plt ___
___ 04:50AM BLOOD Glucose-87 UreaN-10 Creat-0.8 Na-145 
K-4.2 Cl-106 HCO3-27 AnGap-12
___ 03:30PM BLOOD CK(CPK)-___*
 
Brief Hospital Course:
This is a ___ year old male with past medical history of possible 
prior seizure who was admitted ___ following seizures in 
the setting of dehydration, alcohol and marijuana use, also 
found to have rhabdomyolysis, seen by neurology service with 
reassuring workup, treated with IV fluids, improving and able to 
be discharged home.

# Seizure 
# Acute toxic encephalopathy
Patient presented with ED from his college dormitory after being 
found by roommate shaking on the floor.  ED course notable for 
seizures, confusion and agitation requiring IV Ativan.  Patient 
initially confused, thought to be post-ictal state and secondary 
to multiple doses of Ativan he received.  Mental status rapidly 
improved and patient reported one night of heavy drinking, as 
well as daily heavy marijuana use.  He denied other illicit 
drugs, but stated that he could not be sure his marijuana hadn't 
been laced with other drugs.  Patient was seen by neuro consult. 
 EEG without additional seizure activity. MRI without focal 
process.  Cause of seizures were felt to be multifactorial 
relating to alcohol, dehydration in setting of emesis, and drug 
use.  Per neurology, no indication for antiepileptic therapy.  
Recommended patient abstain from alcohol and drugs until further 
discussion with outpatient neurologist.  Patient seen by social 
work.  Discharged with outpatient neurology ___.  

# Rhabdomyolysis
Found to have CK > 30k on admission.  Suspect primary driver was 
several seizures around time of presentation, but may have also 
been in impacted by heavy alcohol use and drug use.  Treated 
with IV fluids and CK slowly improved over 5 days.  Once CK , 
5k, IV fluids were stopped.  Recheck of CK showed continued 
improvement.  Advised patient to continue to stay hydrated at 
home, and avoid alcohol and drugs as above.  CK at discharge 
3322.  Would consider CK check at ___ to ensure 
normalization. 

# Transaminitis
Course notable for transaminitis, AST > ALT.  Thought to most 
likely represent muscle breakdown from rhabdo as above.  At 
discharge ALT 111, AST 157.  Cannot rule out some direct effect 
of alcohol on liver. Would consider recheck at ___ visit 
to ensure has normalized--if not would consider further workup.

# Alcohol use
# Marijuana use 
Reports heavy drinking on weekends and daily marijuana use.  
Unclear if he was minimizing usage.  Was seen by social work.  
Treated with thiamine and folate.  Advised as above.  Discharged 
on multivitamin. 

# Anxiety
Patient reported chronic anxiety, and that to some extent his 
daily marijuana use
was self-medication for anxiety.  Would consider outpatient 
mental health referral at ___ ___.  

Transitional issues
- Discharged home
- LFT and CK ___ as above.  

> 30 minutes spent on discharge
 
Medications on Admission:
None
 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals [Multi-Vitamin HP/Minerals]  1 
tablet(s) by mouth once a day Disp #*14 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Rhabdomyolysis
# Seizure 
# Transaminitis
# Alcohol use
# Marijuana use 
# Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___: 

It was a pleasure caring for you at ___.  You were admitted 
with seizures.  You were seen by neurologists and underwent 
testing that was reassuring.  We believe these seizures were 
caused by your alcohol and drug use.  We recommend AGAINST ANY 
use of alcohol or drugs--this will be something you can speak 
about with your new Neurology doctor at your appointment on 
___.  

Your blood testing also showed an elevation of a muscle enzyme 
called "creatine kinase".  This was elevation ("rhabdomyolysis") 
was likely caused by your seizures, alcohol use and drug use.  
You were treated with IV fluids.  Your CK has improved.  It will 
be especially important for you to stay hydrated over the next 
week in order to help protect your kidneys.

Your blood testing also showed elevation in several liver tests. 
 This may be the result of your "rhabdomyolysis" or may be the 
result of harm to your liver from your alcohol use. It will be 
important for you to discuss this with your new primary care 
doctor at your appointment on ___.  

You improved and are now ready for discharge home. It will be 
important for you to see your new primary care doctor and 
neurology doctor.
 
Followup Instructions:
___